US05371101
In the same manner as in Reference Example 5, starting from 0.50 g of (1S)-1-[(2R)-(2,4-difluorophenyl)-2-oxiranyl]ethanol and 0.61 g of 5-methyl-4-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-3(2H,4H)-1,2,4-triazolone, 0.45 g of 2-[(1R,2S)-2-(2,4-difluorophenyl)-2,3-epoxy-1-methylpropyl]-5-methyl-4-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-3(2H,4H)-1,2,4-triazolone was obtained as a colorless oil.

reactant | (1S)-1-[(2R)-(2,4-difluorophenyl)-2-oxiranyl]ethanol | 0.50 g | FC1=C(C=CC(=C1)F)[C@]1(OC1)[C@H](C)O | C10H10F2O2
reactant | 5-methyl-4-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-3(2H,4H)-1,2,4-triazolone | 0.61 g | CC=1N(C(NN1)=O)C1=CC=C(C=C1)OCC(C(F)F)(F)F | C12H11F4N3O2
product | 2-[(1R,2S)-2-(2,4-difluorophenyl)-2,3-epoxy-1-methylpropyl]-5-methyl-4-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-3(2H,4H)-1,2,4-triazolone | 0.45 g | FC1=C(C=CC(=C1)F)[C@]1([C@@H](C)N2N=C(N(C2=O)C2=CC=C(C=C2)OCC(C(F)F)(F)F)C)CO1 | C22H19F6N3O3
